* NGSPICE file created from andgate.ext - technology: scmos

.global Vdd Gnd 

.subckt andgate
M1000 a_34_n60# a gnd Gnd nfet w=10u l=4u
+  ad=100p pd=30u as=100p ps=40u
M1001 vdd b a_34_n60# vdd pfet w=10u l=4u
+  ad=0.13n pd=46u as=100p ps=30u
M1002 f a_34_n60# gnd Gnd nfet w=10u l=4u
+  ad=0.11n pd=42u as=90p ps=38u
M1003 f a_34_n60# vdd vdd pfet w=10u l=4u
+  ad=100p pd=40u as=100p ps=40u
M1004 a_34_n60# b a_34_n60# Gnd nfet w=10u l=4u
+  ad=100p pd=30u as=0.34n ps=0.108m
M1005 a_34_n60# a vdd vdd pfet w=10u l=4u
+  ad=100p pd=30u as=0.11n ps=42u
.ends

